US07585885B2
2-Methanesulfonyl-6-(methylpropylamino)-isonicotinic acid
Add 2 N NaOH (0.95 mL) to 2-methanesulfonyl-6-(methylpropylamino)-isonicotinic acid methyl ester (0.181 g, 0.63 mmol) in methanol (5 mL). Stir 3 h, acidify to about pH=3 using 1 N HCl, extract into ethyl acetate, wash organic layer with saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give the title compound (0.14 g, 85%).

reactant | NaOH | 2 N, 0.95 mL | [OH-].[Na+]
reactant | 2-methanesulfonyl-6-(methylpropylamino)-isonicotinic acid methyl ester | 0.63 mmol, 0.181 g | COC(C1=CC(=NC(=C1)N(CCC)C)S(=O)(=O)C)=O | C12H18N2O4S
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 2-Methanesulfonyl-6-(methylpropylamino)-isonicotinic acid | 0.14 g, 85% | CS(=O)(=O)C=1C=C(C(=O)O)C=C(N1)N(CCC)C | C11H16N2O4S
